US03965141
Preparation of N-(3-dimethylamino-2-cyano-2-propene-1-ylidene)-N',N'-dimethylhydrazine
Of the N-(3-dimethylamino-2-cyano-2-propene-1-ylidene)-N',N'-dimethylhydrazine hydrochloride was dissolved in the minimum required amount of water. The pH was adjusted to 8 by addition of 10% sodium hydroxide solution. The desired product N-(3-dimethylamino-2-cyano-2-propene-1-ylidene)-N',N'-dimethylhydrazine precipitated and was filtered off (m.p. 130°-134°).

reactant | N-(3-dimethylamino-2-cyano-2-propene-1-ylidene)-N',N'-dimethylhydrazine hydrochloride | Cl.CN(C=C(C=NN(C)C)C#N)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | N-(3-dimethylamino-2-cyano-2-propene-1-ylidene)-N',N'-dimethylhydrazine | CN(C=C(C=NN(C)C)C#N)C | C8H14N4
